US05631401
4-Phenoxybenzyl alcohol
A solution of 4-phenoxybenzaldehyde (10.0 g, 50 mmol) and 10 mL dry THF was added dropwise to a 0° C. suspension of lithium aluminum hydride (2.1 g, 55.3 mmol) and 100 mL dry THF. The reaction mixture was stirred for 1 hour at 0° C., then was quenched successively with 2.1 mL H20, 2.1 mL 10% NaOH, and 6.3 mL H2O. The resultant slurry was stirred for 1.5 hours at room temperature, then was filtered through Celite® and the filtrate was evaporated under reduced pressure to afford the title compound (9.9 g) as a white solid. 1HNMR (300 MHz, CDCl3) δ 1.68 (t, 1H), 4.68 (d, 2H), 7.00 (m, 4H), 7.10 (t, 1H), 7.35 (m, 4H). MS (DCl/NH3) m/e 183 (M+1, -H2O)+.

reactant | 4-phenoxybenzaldehyde | 50 mmol, 10.0 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | lithium aluminum hydride | 55.3 mmol, 2.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Phenoxybenzyl alcohol | 9.9 g | O(C1=CC=CC=C1)C1=CC=C(CO)C=C1 | C13H12O2
